US06355660B1
To a stirred solution of potassium t-butoxide (12.3 g) in DMSO (100 mL) was added at once 3-chlorophenol (12.86 g). The resulting solution was stirred for 5 minutes at room temperature, then 3-fluoronitrobenzene (12.70 g) was added all at once. The resulting dark mixture was heated at 120° C. for 12 hours, cooled to room temperature then poured into water (700 mL). The resulting mixture was extracted with ether (2×200 mL). The organic fraction was washed with 2N NaOH (100 mL), then with water (100 mL). After drying (MgSO4), the solvent was evaporated and the resulting dark oil was distilled to give 3-(3-chlorophenoxy)nitrobenzene as a yellow oil, b.p. 135-140° C. at 0.05 mm

reactant | potassium t-butoxide | 12.3 g | CC(C)([O-])C.[K+]
reactant | 3-chlorophenol | 12.86 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | 3-fluoronitrobenzene | 12.70 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | water | 700 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 3-(3-chlorophenoxy)nitrobenzene | ClC=1C=C(OC=2C=C(C=CC2)[N+](=O)[O-])C=CC1 | C12H8ClNO3
